US05409943
(b) N-(3-Benzyloxypyrid-2-yl)-N'-(4-trifluoromethylphenyl)guanidine
A mixture of N-(3-benzyloxypyrid-2-yl)-N'-(4-trifluoromethylphenyl)thiourea (3.08 g, 0.0076 mol), yellow mercuric oxide (2 g, 0.0092 mol) and methanolic ammonia solution (40 ml) was stirred for 48 hours at room temperature, then the solvent was removed in vacuo and the residue extracted with boiling chloroform and filtered hot. Evaporation of the filtrate and recrystallisation from acetonitrile gave the desired product. Yield 2.05 g (70%), m.p. 154°-155 ° C.

reactant | N-(3-benzyloxypyrid-2-yl)-N'-(4-trifluoromethylphenyl)thiourea | 0.0076 mol, 3.08 g | C(C1=CC=CC=C1)OC=1C(=NC=CC1)NC(=S)NC1=CC=C(C=C1)C(F)(F)F | C20H16F3N3OS
reactant | ammonia | 40 ml | N | H3N
product | N-(3-Benzyloxypyrid-2-yl)-N'-(4-trifluoromethylphenyl)guanidine | C(C1=CC=CC=C1)OC=1C(=NC=CC1)NC(=N)NC1=CC=C(C=C1)C(F)(F)F | C20H17F3N4O
